US08232409B2
A. 2′-Fluoro-3-nitro-biphenyl-4-ylamine
A solution of 4-bromo-2-nitro-phenylamine (2.17 g, 10.0 mmol) in dioxane (40 mL) was treated with 2-fluorophenylboronic acid (1.40 g, 10.0 mmol) and NaHCO3 (40.0 mL, 80.0 mmol, 2M aqueous). The mixture was degassed via sonication and flushed with Ar. Pd(PPh3)4 (116 mg, 0.100 mmol) was added, and the mixture was heated to 80° C. for 12 h. The mixture was diluted with water (40 mL) and extracted twice with EtOAc (40 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on silica (EtOAc/hexanes, 0:1 to 1:1, v/v) to obtain 1.80 g (78%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ: 8.36 (d, J=1.8 Hz, 1H), 7.64 (dt, J=8.6, 2.0 Hz, 1H), 7.45 (td, J=7.8, 1.8 Hz, 1H), 7.30-7.38 (m, 1H), 7.13-7.27 (m, 2H), 6.91 (d, J=8.6 Hz, 1H), 6.18 (br. s., 2H).

reactant | 4-bromo-2-nitro-phenylamine | 10.0 mmol, 2.17 g | BrC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5BrN2O2
reactant | 2-fluorophenylboronic acid | 10.0 mmol, 1.40 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | NaHCO3 | 80.0 mmol, 2M, 40.0 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 40 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.100 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-3-nitro-biphenyl-4-ylamine | 1.80 g, 78% | FC1=C(C=CC=C1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C12H9FN2O2
